US07399778B2
A mixture of 5-(1-azido-2-ethylbutyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrazole (0.260 g) and 5% Pd/C (16 mg) was stirred under an atm pressure of H2 for 15 h. The mixture was filtered through a plug of Celite and the solvent was removed in vacuo to give 0.207 g of (2-ethyl-1-{1-[(4-methylphenyl)sulfonyl]-1H-pyrazol-5-yl}butyl)amine with an impurity present. This compound was used in the next step without purification.

reactant | 5-(1-azido-2-ethylbutyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrazole | 0.260 g | N(=[N+]=[N-])C(C(CC)CC)C1=CC=NN1S(=O)(=O)C1=CC=C(C=C1)C | C16H21N5O2S
catalyst | Pd/C | 16 mg | [Pd] | Pd
product | (2-ethyl-1-{1-[(4-methylphenyl)sulfonyl]-1H-pyrazol-5-yl}butyl)amine | 0.207 g | C(C)C(C(C1=CC=NN1S(=O)(=O)C1=CC=C(C=C1)C)N)CC | C16H23N3O2S
